US08629169B2
(1S,2R,3S,4S,5R,6R)-2-Amino-4-hydroxy-3-{[(4-methylphenyl)sulfanyl]methyl}bicyclo[3.1.0]hexane-2,6-dicarboxylic acid
Di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-(tert-butoxycarbonylamino)-4-hydroxy-3-(p-tolylsulfanylmethyl)bicyclo[3.1.0]hexane-2,6-dicarboxylate (300 mg, 545.73 μmol) is placed in a microwave vial. To the vial is added water (2 mL, 110 mmol), and acetic acid (2 mL, 34.9 mmol). The mixture is heated in the microwave to 140° C. for 20 minutes. The solvent is removed under reduced pressure to give the title compound (165 mg, 489.04 μmol, 89.6%). MS (m/z): 338.0 (M+H).

reactant | Di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-(tert-butoxycarbonylamino)-4-hydroxy-3-(p-tolylsulfanylmethyl)bicyclo[3.1.0]hexane-2,6-dicarboxylate | 545.73 μmol, 300 mg | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1CSC1=CC=C(C=C1)C)O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C29H43NO7S
reactant | water | 110 mmol, 2 mL | O | H2O
reactant | acetic acid | 34.9 mmol, 2 mL | C(C)(=O)O | C2H4O2
product | (1S,2R,3S,4S,5R,6R)-2-Amino-4-hydroxy-3-{[(4-methylphenyl)sulfanyl]methyl}bicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 489.04 μmol, 165 mg, 89.6% | N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1CSC1=CC=C(C=C1)C)O)C(=O)O)C(=O)O | C16H19NO5S
